data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)NC1=CC=CC=C1B(O)O.COC(=O)C1=CC=C(CBr)C=C1C(=O)OC.COCCOC.ClCCl.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",37,6,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)NC1=CC=CC=C1B(O)O.COC(=O)C1=CC=C(CBr)C=C1C(=O)OC.COCCOC.ClCCl.O.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",37,5,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)NC1=CC=CC=C1B(O)O.COC(=O)C1=CC=C([CH2:3][Br:1])C=C1C(=O)OC.COCCOC.ClCCl.O.O=C([O-])[O-].[Na+].[Na+]|(2, 3);((3, 1), 2)",37,4,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)NC1=CC=CC=C1B(O)O.COC(=O)C1=CC=C([CH2][Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:2])C=C1C(=O)OC.COCCOC.ClCCl.O.O=C([O-])[O-:3].[Na+:4].[Na+]|(3, 1);((1, 2), 4)",37,3,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)NC1=CC=CC=[C:2]1[B:3](O)O.COC(=O)C1=CC=C([CH2][Pd-2:1]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1C(=O)OC.COCCOC.ClCCl.O.[Na+].[Na][Br]|(1, 2);((2, 3), 1)",37,2,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1=CC=C([CH2][Pd-2:1]([C]2=CC=CC=C2NC(=O)OC(C)(C)C)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:2]C(=O)[O-])[B:3](O)O)C=C1C(=O)OC.COCCOC.ClCCl.O.[Na+].[Na][Br]|((1, 2), 3);((3, 1), 1)",37,1,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1=CC=C([CH2:3][Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:2]2=CC=CC=C2NC(=O)OC(C)(C)C)C=C1C(=O)OC.COCCOC.ClCCl.O.O=C([O-])OB(O)O.[Na+].[Na][Br]|((1, 2), 3);((3, 1), 1)",37,0,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=C2I)CC1.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+].[Pd:2]|(1, 2)",17,6,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=C2I)CC1.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(2, 1)",17,5,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C:1]2[I:3])CC1.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(2, 1);((1, 3), 2)",17,4,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C]2[Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:4])CC1.O=C([O-])[O-:1].OB(O)C1=CC=CC=C1.[Na+:2].[Na+]|(1, 3);((3, 4), 2)",17,3,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C]2[Pd-2:3]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.O[B:2](O)[C:1]1=CC=CC=C1.[Na+].[Na][I]|(3, 1);((1, 2), 3)",17,2,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C]2[Pd-2:2]([C]2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])CC1.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",17,1,reaction_41,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)(C)OC(=O)N1CCC(CNC2=CC(Cl)=NC=[C:1]2[Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2)CC1.O=C([O-])OB(O)O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",17,0,reaction_41,USPTO_suzuki,train
